US04341784
A suspension of 20 g of ethyl 1-ethyl-1,4-dihydro-7-methoxy-6-nitro-4-oxo-1,8-naphthyridine-3-carboxylate in 400 ml of acetic acid was heated to 70° C. To this suspension was added portionwise 40 g of reduced iron-powder. The mixture was heated at 70° C. for one hour with stirring, and then 500 ml of ethanol was added. The mixture was filtered to remove the insoluble material and the solvent was distilled off under reduced pressure. To the residue was added 500 ml of water and the mixture was allowed to stand overnight in a refrigerator. The resulting precipitate was collected by filtration and recrystallized from ethanol to give 14.8 g of ethyl 6-amino-1-ethyl-1,4-dihydro-7-methoxy-4-oxo-1,8-naphthyridine-3-carboxylate, m.p. 250°-252° C.

reactant | ethyl 1-ethyl-1,4-dihydro-7-methoxy-6-nitro-4-oxo-1,8-naphthyridine-3-carboxylate | 20 g | C(C)N1C=C(C(C2=CC(=C(N=C12)OC)[N+](=O)[O-])=O)C(=O)OCC | C14H15N3O6
reactant | ethanol | 500 ml | C(C)O | C2H6O
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | ethyl 6-amino-1-ethyl-1,4-dihydro-7-methoxy-4-oxo-1,8-naphthyridine-3-carboxylate | 14.8 g | NC=1C=C2C(C(=CN(C2=NC1OC)CC)C(=O)OCC)=O | C14H17N3O4
